US06191170B1
1-[(3-Hydroxy-4-methoxyphenyl)aminosulfonyl]-2,3,4-trimethoxybenzene.
To a solution of 2,3,4-trimethoxybenzenesulfonyl chloride (500 mg, 1.88 mmol) in methanol (mL) is added 3-hydroxy-4-methoxyaniline (523 mg, 3.76 mmol) at ambient temperature. The reaction is stirred for 1 h, the solvent is then evaporated and the crude product is purified by flash chromatography over silica.

reactant | 2,3,4-trimethoxybenzenesulfonyl chloride | 1.88 mmol, 500 mg | COC1=C(C=CC(=C1OC)OC)S(=O)(=O)Cl | C9H11ClO5S
reactant | 3-hydroxy-4-methoxyaniline | 3.76 mmol, 523 mg | OC=1C=C(N)C=CC1OC | C7H9NO2
solvent | methanol | CO | CH4O
product | 1-[(3-Hydroxy-4-methoxyphenyl)aminosulfonyl]-2,3,4-trimethoxybenzene | OC=1C=C(C=CC1OC)NS(=O)(=O)C1=C(C(=C(C=C1)OC)OC)OC | C16H19NO7S
